US05248683
Preparation of 5-(benzo-1,2,3-thiadiazol-7-yl-2,2-dimethyl-1,3-dioxane-4,6-dione (2:1 salt with 4-dimethylaminopyridine)
5.5 g of benzo-1,2,3-thiadiazole-7-carboxylic acid chloride in 10 ml of tetrahydrofuran are added dropwise to a solution, stirred at 0° C., of 3.6 g of cycloisopropylidene malonate, 7.6 ml of triethylamine and 2.0 g of 4-dimethylaminopyridine in 25 ml of dichloromethane. The reaction mixture is stirred for 2 hours at 0° C. and then applied directly to a silica gel column and extracted with ethyl acetate, resulting in the title compound in the form of a salt with 4-dimethylaminopyridine (2:1), m.p. 170°-172° C.

reactant | benzo-1,2,3-thiadiazole-7-carboxylic acid chloride | 5.5 g | S1N=NC2=C1C(=CC=C2)C(=O)Cl | C7H3ClN2OS
reactant | malonate | 3.6 g | C(CC(=O)[O-])(=O)[O-]
reactant | triethylamine | 7.6 ml | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 2.0 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | benzo-1,2,3-thiadiazol-7-yl-2,2-dimethyl-1,3-dioxane-4,6-dione | S1N=NC2=C1C(=CC=C2)C2C(OC(OC2=O)(C)C)=O | C12H10N2O4S
